US04623662
A solution of 38.0 g of N-heptyl-4-n-butylbenzamide and 280 ml of borane-tetrahydrofuran complex in 120 ml of anhydrous tetrahydrofuran was refluxed for 18 hours, allowed to cool, and treated with 6N hydrochloric acid. The organic solvent was evaporated and the residue was partitioned between ether and aqueous sodium hydroxide solution. The ether layer was separated, dried, and evaporated. The residue was distilled to yield N-heptyl-4-n-butylbenzenemethanamine as a colorless liquid, bp 115° C. at 80μ.

reactant | N-heptyl-4-n-butylbenzamide | 38.0 g | C(CCCCCC)NC(C1=CC=C(C=C1)CCCC)=O | C18H29NO
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | N-heptyl-4-n-butylbenzenemethanamine | C(CCCCCC)NCC1=CC=C(C=C1)CCCC | C18H31N
